US05849732
A mixed solution of 20 g of 1,2,3-trimethoxybenzene and 100 ml of tetrahydrofuran (THF) was cooled to -78° C., and 140 ml of a hexane solution containing 1M sec-butyl lithium (sec-BuLi) was added dropwise thereto. After stirring the mixture at the same temperature for 45 minutes, 11 ml of dimethylformamide (DMF) was added to the reaction mixture. The mixture was stirred at -50° C. or lower for 45 minutes. Then, a 10% acetic acid aqueous solution was added to the mixture, and the resulting mixture was extracted with diethyl ether. The extract was washed and dried, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=9:1) to give 5.7 g of 2,3,4-trimethoxybenzaldehyde (yield: 24%, oily product).

reactant | 1,2,3-trimethoxybenzene | 20 g | COC1=C(C(=CC=C1)OC)OC | C9H12O3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | hexane | 140 ml | CCCCCC | C6H14
reactant | sec-butyl lithium | 1M | C(C)(CC)[Li]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | 2,3,4-trimethoxybenzaldehyde | 5.7 g, yield: 24% | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
